US04436903
5.86 g (10 mmols) of 7β-phenoxyacetylamino-3-morpholino-3-cephem-4-carboxylic acid benzhydryl ester are dissolved in 25 ml of dimethyl formamide and 25 ml of glacial acetic acid. The solution is cooled to 0° C. and then 2.04 g of sodium borohydride are added in 100 mg portions over 1 hour, with vigorous evolution of gas occurring after each addition. The reaction mixture is stirred for further 5 hours at room temperature, then diluted with 300 ml of water and extracted with four 100 ml portions of methylene chloride. After neutralisation with aqueous sodium bicarbonate solution, the organic phase is concentrated in vacuo and the dimethyl formamide is distilled off in a high vacuum. The oily, orange residue is chromatographed on silica gel with toluene/ethyl acetate (96:5), affording pure 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester as a white foam.

reactant | 7β-phenoxyacetylamino-3-morpholino-3-cephem-4-carboxylic acid benzhydryl ester | 10 mmols, 5.86 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)N2CCOCC2 | C32H31N3O6S
reactant | sodium borohydride | 2.04 g | [BH4-].[Na+]
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | 7β-phenoxyacetylamino-3-cephem-4-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C28H24N2O5S
